US08067408B2
1-bromo-3-(bromomethyl)-2-(methyloxy)benzene
1-Bromo-3-methyl-2-(methyloxy)benzene (30.3 g, 0.15 mol), NBS (28.2 g, 0.16 mol), and BPO (1.83 g, 7.55 mmol) were suspended in 300 mL of CCl4, and the mixture was heated to 80° C. over night. After cooled to room temperature, the solution was filtrated and the solid was washed with CCl4 (30 mL×2). The filtrate was washed with NaHO3 (aq. 250 mL×2), Na2CO3 (aq. 100 mL×2), brine (100 mL) and dried over Na2SO4. After removing the solvent, 41.4 g of the crude product was obtained. (Yield: 97.9%).

reactant | 1-Bromo-3-methyl-2-(methyloxy)benzene | 0.15 mol, 30.3 g | BrC1=C(C(=CC=C1)C)OC | C8H9BrO
reactant | NBS | 0.16 mol, 28.2 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
solvent | CCl4 | 300 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 1-bromo-3-(bromomethyl)-2-(methyloxy)benzene | 41.4 g, Yield: 97.9% | BrC1=C(C(=CC=C1)CBr)OC | C8H8Br2O
